US07932246B2
N-Hydroxy 2-{[3-(2-naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide—Example 69
To a solution of N-(tetrahydro-2H-pyran-2-yloxy) 2-{[3-(2-napthylsulphonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide (110 mg, 0.21 mmol) in MeOH (15 ml) and DCM (15 ml), was added TFA (1.5 ml) at r.t. The mixture was stirred for 8 h before removal of solvent in vacuo. Excess TFA was removed by re-dissolving in DCM (5 ml×2) and concentration to dryness under reduced pressure. Purification by preparative HPLC gave the title compound as a white solid (25.1 mg, 21%). LCMS purity 100%, m/z 426 [M+H]+, 1H NMR (400 MHz, d6-DMSO) δ: 1.15 (2H, s), 2.55 (1H, s), 3.20 (2H, d), 3.65 (2H, d), 7.65 (2H, m), 7.75 (1H, d), 7.90 (1H, m), 8.15-8.30 (3H, m), 8.50 (1H, s), 8.65 (2H, s).

reactant | N-(tetrahydro-2H-pyran-2-yloxy) 2-{[3-(2-napthylsulphonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide | 0.21 mmol, 110 mg | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)NC1C2CN(CC12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H27N5O5S
reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 15 ml | CO | CH4O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | N-Hydroxy 2-{[3-(2-naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide | 25.1 mg, 21% | ONC(=O)C=1C=NC(=NC1)NC1C2CN(CC12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C20H19N5O4S
